US06605600B1
8-[5-(3-Dimethylamino-propyl)-tricyclo[2.2.1.02,6]hept-3-yl]-1,3-dipropyl-3,7-dihydro-purine-2,6-dione
8-[5-(3-Dimethylamino-propylidene)-tricyclo[2.2.1.02,6]hept-3-yl]-1,3-dipropyl-3,7-dihydro-purine-2,6-dione; compound with trifluoro-acetic acid was hydrogenated under 60 psi using Pt/C 5% in EtOH (10 ml) and 1 ml conc. HCl overnight. Catalyst was filtered and solvent was removed under reduced pressure. Crude product was purified by HPLC Yield 30 mg. Mass (ES+ 414).

reactant | 8-[5-(3-Dimethylamino-propylidene)-tricyclo[2.2.1.02,6]hept-3-yl]-1,3-dipropyl-3,7-dihydro-purine-2,6-dione; compound with trifluoro-acetic acid | FC(C(=O)O)(F)F.CN(CCC=C1C2C(C3C(C13)C2)C2=NC=1N(C(N(C(C1N2)=O)CCC)=O)CCC)C
solvent | EtOH | 10 ml | CCO | C2H6O
solvent | HCl | 1 ml | Cl | ClH
catalyst | Pt/C | [Pt] | Pt
product | 8-[5-(3-Dimethylamino-propyl)-tricyclo[2.2.1.02,6]hept-3-yl]-1,3-dipropyl-3,7-dihydro-purine-2,6-dione | CN(CCCC1C2C(C3C(C13)C2)C2=NC=1N(C(N(C(C1N2)=O)CCC)=O)CCC)C | C23H35N5O2
